US04399163
i. 2-t-Butylcyclohexanone
A solution of 31.25 g. (0.20 mole) t-butylcyclohexanol in 80 ml. of ethyl ether was cooled to 10° C. To this was added dropwise, with stirring, a solution of 21.0 g. (0.07 mole) sodium dichromate dihydrate and 15.75 ml. (0.30 mole) concentrated sulfuric acid in 100 ml. water while maintaining the reaction mixture below 25° C. The mixture was then warmed to room temperature, stirred for two hours, poured onto ice-water, ether layer separated, the aqueous phase extracted again with ether and the combined extracts washed with water, sodium bicarbonate and dried (MgSO4). Evaporation of the ether afforded 30.6 g. (99%) of the desired ketone.

reactant | t-butylcyclohexanol | 0.20 mole | C(C)(C)(C)C1(CCCCC1)O | C10H20O
reactant | sodium dichromate dihydrate | 0.07 mole | O.O.[Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-].[Na+].[Na+]
reactant | sulfuric acid | 0.30 mole | S(O)(O)(=O)=O | H2O4S
solvent | ether | CCOCC | C4H10O
solvent | water | O | H2O
solvent | ethyl ether | C(C)OCC | C4H10O
product | 2-t-Butylcyclohexanone | C(C)(C)(C)C1C(CCCC1)=O | C10H18O
